US09403839B2
To methyl 3-formyl-4-hydroxy-benzoate (10.0 g, 55.5 mmol), potassium carbonate (30.7 g, 222 mmol) and N,N-dimethylformamide (63 mL) was added 2-iodopropane (11.1 mL, 111 mmol). The mixture was heated at 60° C. for 18 hours. The mixture was filtered using ethyl acetate (200 mL) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (150 mL) and was washed with water (3×75 mL) and a saturated aqueous solution of sodium chloride (1×75 mL). The organic layer was dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure to yield methyl 3-formyl-4-isopropoxy-benzoate (98%) as a yellow viscous liquid. ESI-MS m/z calc. 222.2, found 223.3 (M+1)+; Retention time: 1.51 minutes (3 min run). 1H NMR (400 MHz, DMSO) δ 10.35 (s, 1H), 8.23 (d, J=2.3 Hz, 1H), 8.17 (dd, J=8.8, 2.3 Hz, 1H), 7.39 (d, J=8.9 Hz, 1H), 4.98-4.83 (m, 1H), 3.85 (s, 3H), 1.38 (d, J=6.0 Hz, 6H).

reactant | methyl 3-formyl-4-hydroxy-benzoate | 55.5 mmol, 10.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | potassium carbonate | 222 mmol, 30.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 111 mmol, 11.1 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 63 mL | CN(C=O)C | C3H7NO
product | methyl 3-formyl-4-isopropoxy-benzoate | 98% | C(=O)C=1C=C(C(=O)OC)C=CC1OC(C)C | C12H14O4
